US07414047B2
4-Cyclohexyl-piperazine-1-carboxylic acid tert-butyl ester
Prepared in analogy to Example 1 from piperazine-1-carboxylic acid tert-butyl ester and cyclohexanone.

reactant | piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
product | 4-Cyclohexyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1CCCCC1 | C15H28N2O2
